US08283354B2
To a mixture of 2-(4-((R)-3-aminopyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol (100 mg, 0.31 mmol) and (tetrahydro-2H-pyran-2-yl)methyl 1H-imidazole-1-carboxylate (98 mg, 0.47 mmol) was added 1.04 mL CH2Cl2 and triethylamine (65 μL, 47 mg, 0.46 mmol). The mixture was stirred at room temperature overnight. An additional equivalent of (tetrahydro-2H-pyran-2-yl)methyl 1H-imidazole-1-carboxylate (100 mg, 0.47 mmol) was added to the mixture, and the reaction was heated at 45° C. for 4 hours. Purification via silica gel chromatography using 10-100% ethyl acetate/hexanes gave (tetrahydro-2H-pyran-2-yl)methyl (R)-1-(2(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate. LC/MS: m/z 463.4 (M+H)+ at 2.66 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-((R)-3-aminopyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol | 0.31 mmol, 100 mg | N[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C19H20N4O
reactant | (tetrahydro-2H-pyran-2-yl)methyl 1H-imidazole-1-carboxylate | 0.47 mmol, 98 mg | N1(C=NC=C1)C(=O)OCC1OCCCC1 | C10H14N2O3
reactant | triethylamine | 0.46 mmol, 65 μL, 47 mg | C(C)N(CC)CC | C6H15N
reactant | (tetrahydro-2H-pyran-2-yl)methyl 1H-imidazole-1-carboxylate | 0.47 mmol, 100 mg | N1(C=NC=C1)C(=O)OCC1OCCCC1 | C10H14N2O3
solvent | CH2Cl2 | 1.04 mL | C(Cl)Cl | CH2Cl2
product | (tetrahydro-2H-pyran-2-yl)methyl (R)-1-(2(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(OCC1OCCCC1)=O)C | C26H30N4O4
